US07232821B2
6-{2-[5-Trifluoromethyl-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}-pyridine-2-carboxylic acid methyl ester
Prepared by general procedure 3 but using 6-(2-bromocyclopent-1-enyl) -pyridine-2-carboxylic acid methyl ester instead of 3-(2-bromocyclopent-1-enyl)benzoic acid ethyl ester and 2-(2,4-difluorobenzyloxy)-5-trifluoromethylphenylboronic acid instead of 5-chloro-2-methoxyphenylboronic acid.

reactant | 6-(2-bromocyclopent-1-enyl) -pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CC=C1)C1=C(CCC1)Br | C12H12BrNO2
reactant | 2-(2,4-difluorobenzyloxy)-5-trifluoromethylphenylboronic acid | FC1=C(COC2=C(C=C(C=C2)C(F)(F)F)B(O)O)C=CC(=C1)F | C14H10BF5O3
product | 6-{2-[5-Trifluoromethyl-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CC=C1)C1=C(CCC1)C1=C(C=CC(=C1)C(F)(F)F)OCC1=C(C=C(C=C1)F)F | C26H20F5NO3
